US06248740B1
3.9 g of ethyl 6-chloro-3-methylimidazo[1,2-b]pyridazine-2-carboxylate was suspended in 40 ml of tetrahydrofuran; 30 ml of a 1 N aqueous solution of sodium hydroxide was added, followed by stirring at room temperature for 3 hours. The mixture was concentrated under reduced pressure; the residue was ajusted to pH 4 by the addition of 50 ml of water and 1 N hydrochloric acid; the crystal precipitated was collected by filtration and dried to yield 2.55 g of 6-chloro-3-methylimidazo[1,2-b]pyridazine-2-carboxylic acid. 1.27 g of this carboxylic acid was dissolved in 20 ml of N,N-dimethylformamide; 1.07 g of N,N′-carbonyldiimidazole was added, followed by stirring at room temperature for 30 minutes. To this mixture, 0.922 g of glycine ethyl ester hydrochloride and 0.915 ml of triethylamine were added, followed by further stirring for 3 hours. 60 ml of ice water was added to the reaction mixture; the crystal precipitated was collected by filtration, washed with water and dried to yield 1.18 g of the title compound.

reactant | ethyl 6-chloro-3-methylimidazo[1,2-b]pyridazine-2-carboxylate | 3.9 g | ClC=1C=CC=2N(N1)C(=C(N2)C(=O)OCC)C | C10H10ClN3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 6-chloro-3-methylimidazo[1,2-b]pyridazine-2-carboxylic acid | 2.55 g | ClC=1C=CC=2N(N1)C(=C(N2)C(=O)O)C | C8H6ClN3O2
